US07041681B2
3-(4-Acetoxy-2,6-dimethyl-phenyl)-2-tert-butoxycarbonylamino-propionic acid
To a solution of 0.77 g (2.5 mmol) of 2-tert-Butoxycarbonylamino-3-(4-hydroxy-2,6-dimethyl-phenyl)-propionic acid and 3 mL of 3N sodium hydroxide solution, cooled in an ice bath, was added 0.89 mL (9.4 mmol) of acetic anhydride dropwise over about 30 seconds. After stirring for 2 hours, the mixture was acidified with addition of 4.5 mL of 2N hydrochloric acid. The mixture was extracted twice with ethyl acetate. The combined organics were dried over magnesium sulfate and concentrate to a clear oil. The title product was used for the next reaction without further purification.

reactant | 2-tert-Butoxycarbonylamino-3-(4-hydroxy-2,6-dimethyl-phenyl)-propionic acid | 2.5 mmol, 0.77 g | C(C)(C)(C)OC(=O)NC(C(=O)O)CC1=C(C=C(C=C1C)O)C | C16H23NO5
reactant | sodium hydroxide | 3N, 3 mL | [OH-].[Na+]
reactant | acetic anhydride | 9.4 mmol, 0.89 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | 2N, 4.5 mL | Cl | ClH
product | 3-(4-Acetoxy-2,6-dimethyl-phenyl)-2-tert-butoxycarbonylamino-propionic acid | C(C)(=O)OC1=CC(=C(C(=C1)C)CC(C(=O)O)NC(=O)OC(C)(C)C)C | C18H25NO6
